US07034039B2
To a solution of methyl 3-[[(tert-butoxycarbonyl)amino]methyl]-4-(3-fluorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinecarboxylate (1.45 g, 3 mmol) in tetrahydrofuran (10 mL) and methanol (10 ml) was added 1N sodium hydroxide (6 mL). The obtained mixture was stirred at room temperature for 2 h. The reaction mixture was poured into water, acidified with 1N hydrochloric acid and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was crystallized from ethyl acetate-n-hexane to give 3-[[(tert-butoxycarbonyl)amino]methyl]-4-(3-fluorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinecarboxylic acid (1.34 g, 95.7%) as crystals.

reactant | methyl 3-[[(tert-butoxycarbonyl)amino]methyl]-4-(3-fluorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinecarboxylate | 3 mmol, 1.45 g | C(C)(C)(C)OC(=O)NCC=1N(C(C2=CC=C(C=C2C1C1=CC(=CC=C1)F)C(=O)OC)=O)CC(C)C | C27H31FN2O5
reactant | sodium hydroxide | 1N, 6 mL | [OH-].[Na+]
reactant | water | O | H2O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | methanol | 10 ml | CO | CH4O
product | 3-[[(tert-butoxycarbonyl)amino]methyl]-4-(3-fluorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinecarboxylic acid | 1.34 g, 95.7% | C(C)(C)(C)OC(=O)NCC=1N(C(C2=CC=C(C=C2C1C1=CC(=CC=C1)F)C(=O)O)=O)CC(C)C | C26H29FN2O5
